US06982348B2
3) (2RS,3RS)-3-(3-fluorophenyl)-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoic acid
To a solution of ethyl(2RS,3RS)-3-(3-fluorophenyl)-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoate (6.92 g, 16.5 mmol) in methanol (50 ml) was added 2N aqueous sodium hydroxide solution (16.5 ml, 33.0 mmol), and the mixture was stirred at room temperature for 2 hrs. The reaction solution was acidified with 1N hydrochloric acid and extracted with ethyl acetate (200 ml×2). The extract was washed with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. Recrystallization of the residue from ethyl acetate-hexane gave the objective substance (4.28 g, 66%).

reactant | ethyl(2RS,3RS)-3-(3-fluorophenyl)-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoate | 16.5 mmol, 6.92 g | FC=1C=C(C=CC1)C(C(C(=O)OCC)CC1=CC(=CC=C1)OC(C(F)F)(F)F)O | C20H19F5O4
reactant | sodium hydroxide | 33.0 mmol, 2N, 16.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | (2RS,3RS)-3-(3-fluorophenyl)-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoic acid | FC=1C=C(C=CC1)C(C(C(=O)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F)O | C18H15F5O4
